US07728029B2
Cyclohexyl-hydrazine hydrochloride (0.276 g, 1.59 mmol, CAS #24214-73-1, purchased from Aldrich), 2-dimethylaminomethylene-4,4,4-trifluoro-3-oxo-butyric acid ethyl ester (0.459 g, 1.67 mmol) and anhydrous sodium acetate (0.188 g, 2.29 mmol) were combined in ethanol (2.9 mL) and heated at 70° C. for 15 hours. After cooling to room temperature, the reaction mixture was partitioned between methylene chloride and water. The organic phase was washed with water and brine. Each aqueous phase was back extracted with a second portion of methylene chloride. The two organic phases were combined, dried over sodium sulfate and concentrated in vacuo. Purification by flash chromatography, eluting with a 5-40% ethyl acetate-hexanes gradient, yielded 1-cyclohexyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester (0.270 g, 55%). Mass spectrum: m/z: 291.3 (M+H).

reactant | Cyclohexyl-hydrazine hydrochloride | 1.59 mmol, 0.276 g | Cl.C1(CCCCC1)NN
reactant | 2-dimethylaminomethylene-4,4,4-trifluoro-3-oxo-butyric acid ethyl ester | 1.67 mmol, 0.459 g | C(C)OC(C(C(C(F)(F)F)=O)=CN(C)C)=O | C9H12F3NO3
reactant | sodium acetate | 2.29 mmol, 0.188 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 2.9 mL | C(C)O | C2H6O
product | 1-cyclohexyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 0.270 g, 55% | C(C)OC(=O)C=1C=NN(C1C(F)(F)F)C1CCCCC1 | C13H17F3N2O2
